US06458798B1
(5-2) 4-Butyl-6-chloro-5-methylpyrimidine-2-ylamine
By reacting 2-amino-6-butyl-5-methylpyrimidine-4-ol (0.82 g, 4.52 mmol) and phosphorous oxychloride (10 ml), there was obtained the object compound (720 mg).

reactant | 2-amino-6-butyl-5-methylpyrimidine-4-ol | 4.52 mmol, 0.82 g | NC1=NC(=C(C(=N1)O)C)CCCC | C9H15N3O
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Butyl-6-chloro-5-methylpyrimidine-2-ylamine | 720 mg | C(CCC)C1=NC(=NC(=C1C)Cl)N | C9H14ClN3
